US07166599B2
a) 2-methylsulphenyl-4-methylamino-5-fluoro-pyrimidine
Prepared from 2-methylsulphenyl-4-chloro-5-fluoro-pyrimidine by reacting with methylamine in ethanol at 100° C., Rf value: 0.53 (silica gel; methylene chloride/methanol/conc. aqueous ammonia=20:1:0.1)

reactant | 2-methylsulphenyl-4-chloro-5-fluoro-pyrimidine | CSC1=NC=C(C(=N1)Cl)F | C5H4ClFN2S
reactant | methylamine | CN | CH5N
reactant | methylene chloride methanol | C(Cl)Cl.CO
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2-methylsulphenyl-4-methylamino-5-fluoro-pyrimidine | CSC1=NC=C(C(=N1)NC)F | C6H8FN3S
